US04971982
36.6 g of 1-(2-methoxyphenyl)-3-methyl-1-(2-pyridyl)-2-buten-1-ol were heated at 70° C. in 200 ml of dimethylformamide with 28.6 g of sodium methanethiolate. After 10 hours the mixture was allowed to cool to room temperature, poured into dilute hydrochloric acid and extracted with ethyl acetate. The organic extract was dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate for the elution to give 28.5 g of 1-(2-hydroxyphenyl)-3-methyl-1-(2-pyridyl)-2-buten-1-ol in the form of an oil.

reactant | 1-(2-methoxyphenyl)-3-methyl-1-(2-pyridyl)-2-buten-1-ol | 36.6 g | COC1=C(C=CC=C1)C(C=C(C)C)(O)C1=NC=CC=C1 | C17H19NO2
reactant | sodium methanethiolate | 28.6 g | C[S-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-(2-hydroxyphenyl)-3-methyl-1-(2-pyridyl)-2-buten-1-ol | 28.5 g | OC1=C(C=CC=C1)C(C=C(C)C)(O)C1=NC=CC=C1 | C16H17NO2
